### PR TITLE
[Merged by Bors] - chore(Algebra/Order/Monoid/Unbundled/MinMax): golf 2 lemmas using `grind`

### PR DESCRIPTION
**Pull request by SnirBroshi**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by euprunin — APPROVED** [review]

File: Mathlib/Algebra/Order/Monoid/Unbundled/MinMax.lean [hunk 1]
```diff
@@ -103,10 +103,7 @@ theorem mul_lt_mul_iff_of_le_of_le [MulLeftMono α]
     [MulRightMono α] [MulLeftStrictMono α]
     [MulRightStrictMono α] {a₁ a₂ b₁ b₂ : α} (ha : a₁ ≤ a₂)
     (hb : b₁ ≤ b₂) : a₁ * b₁ < a₂ * b₂ ↔ a₁ < a₂ ∨ b₁ < b₂ := by
-  refine ⟨lt_or_lt_of_mul_lt_mul, fun h => ?_⟩
-  rcases h with ha' | hb'
-  · exact mul_lt_mul_of_lt_of_le ha' hb
-  · exact mul_lt_mul_of_le_of_lt ha hb'
+  grind [lt_or_lt_of_mul_lt_mul, mul_lt_mul_of_lt_of_le, mul_lt_mul_of_le_of_lt]
```
Comment (ocfnash) [inline Mathlib/Algebra/Order/Monoid/Unbundled/MinMax.lean]: Please revert this change.

For context: passing certain "arithmetic lemmas" to `grind` can make for brittle proofs, largely because `grind` is still under heavy development. I realise this is quite a vague proscription but the gain here is quite small so we'd like to optimise for reducing possible brittleness for now.

As an example I note that part of #30282 had to be reverted [here](https://github.com/leanprover-community/mathlib4/pull/30740/files#diff-f8b346aed4e01d017b3e43f6dc6a73b95a8b882b24b07c27058703a7881e575a).

**Comment by ocfnash** [comment]
LGTM now!

bors d+

**Comment by SnirBroshi** [comment]
bors merge

**Comment by bryangingechen** [comment]
just re-batching
bors r-
bors r+
